US03962289
Following the procedure of Example 1 but using 0.561 g. of PGA2, 0.302 ml. of triethylamine, 0.286 ml. of isobutylchloroformate, and 0.570 g. of p-phenylphenol, there is obtained a crude oily residue. This residue is subjected to silica gel chromatography, eluting with ethyl acetate-hexane (2:3) saturated with water. The residue obtained by concentration of selected fractions, 0.381 g., an oil, is the title compound, having Rf 0.5 (TLC on silica gel in ethyl acetate-hexane (2:3).

reactant | PGA2 | CCCCC[C@@H](/C=C/[C@H]1C=CC(=O)[C@@H]1C/C=C\CCCC(=O)O)O | C20H30O4
reactant | isobutylchloroformate | C(C(C)C)OC(=O)Cl | C5H9ClO2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | p-phenylphenol | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
